US04894450
To a melt of 2,4-dichlorophenol (400.0 g, 2.454 mole) at ca. 50° was added 4-dimethylamino-pyridine (6.93 g, 56 mmole), followed by phosphorus oxychloride (289.5 g, 1.887 mole). The mixture was heated under nitrogen to ca. 120°, at which temperature the mixture began to reflux and to generate hydrogen chloride (which was passed through a sodium hydroxide scrubber). After about twelve hours at 120°-125°, gas-liquid partition chromatography (GLPC) using a silica capillary indicated less than 1% (by weight) of unreacted 2,4-dichlorophenol and a mixture of 2,4-dichlorophenyl phosphorodichloridate, the desired bis(2,4-dichlorophenyl) phosphorochloridate, and tris(2,4-dichlorophenyl) phosphate. After the reaction mixture was cooled to ca. 40°, hexane (145 ml) was added and the mixture was cooled to ca. 20°. A precipitate containing 4-dimethylaminopyridine hydrochloride was removed by filtration. The filtrate was diluted with additional hexane (145 ml) and cooled to ca. -30°. After about eight hours the resultant precipitate was collected by filtration and washed with hexane (four 200-ml portions) at ca. -20°, all with careful exclusion of moisture. Drying for two hours at room temperature under a flow of nitrogen yielded 129.87 g (26% yield) of the desired bis(2,4-dichlorophenyl) phosphorochloridate as a white solid. Analysis by GLPC indicated 99% purity (by weight), with contamination by 0.3% (by weight) 2,4-dichlorophenyl phosphorodichloridate and 0.2% (by weight) tris(2,4-dichlorophenyl) phosphate.

reactant | 2,4-dichlorophenol | 2.454 mole, 400.0 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | phosphorus oxychloride | 1.887 mole, 289.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | 4-dimethylamino-pyridine | 56 mmole, 6.93 g | CN(C1=CC=NC=C1)C | C7H10N2
product | bis(2,4-dichlorophenyl) phosphorochloridate | 129.87 g, 26% yield | P(OC1=C(C=C(C=C1)Cl)Cl)(OC1=C(C=C(C=C1)Cl)Cl)(=O)Cl | C12H6Cl5O3P
